US06245746B1
(B) N-Boc-phenylalanyl-Nδ-Boc-ornithine Quinoline-3-amide
A cold solution (0° C.) of N-Boc-phenylalanyl-Nδ-Boc-ornithine (0.2 g, 0.4 mmol), 3-aminoquinoline (0.082 g, 0.57 mmol), diisopropylethylamine (0.103 mg, 0.8 mmol), 4-(dimethylamino)pyridine (5 mg, 0.04 mmol), and methylene chloride (3 mL) was treated dropwise with phosphorus oxychloride (0.5 mmol). The reaction was stirred at 0° C. for 1 hr and ethyl acetate (20 mL) was added. The organic layer was washed with water (2×20 mL), 1N hydrochloric acid (2×10 mL), saturated sodium bicarbonate (2×10 mL) and brine. The organic layer was dried over anhydrous sodium sulfate, filtered and the filtrate adsorbed onto 100 mg of silica gel and applied to a column prepacked with silica gel. The column was eluted with ethyl acetate/hexane (70:30, v:v) to afford titled compound (51 mg) as an oil: 1H NMR (400 MHz, CDCl3) δ1.42-1.55 (18H), 1.6-1.8 (1H), 2.0-2.1 (1H), 3.1-3.2 (4H), 3.3-3.4 (1H), 4.19-4.21 (1H), 4.70-4.80 (1H), 5.0-5.15 (1H), 7.21-7.29 (5H), 7.53-7.55 (1H), 7.63-7.65 (1H), 7.79-7.81 (1H), 8.05-8.07 (1H), 8.74 (1H), 8.94 (1H); mass spectrum (relative intensity) m/e 606 (100, M+1).

reactant | N-Boc-phenylalanyl-Nδ-Boc-ornithine | 0.4 mmol, 0.2 g | C(=O)(OC(C)(C)C)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CCCNC(=O)OC(C)(C)C)C(=O)O | C24H37N3O7
reactant | 3-aminoquinoline | 0.57 mmol, 0.082 g | NC=1C=NC2=CC=CC=C2C1 | C9H8N2
reactant | diisopropylethylamine | 0.8 mmol, 0.103 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | phosphorus oxychloride | 0.5 mmol | P(=O)(Cl)(Cl)Cl | Cl3OP
catalyst | 4-(dimethylamino)pyridine | 0.04 mmol, 5 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
solvent | methylene chloride | 3 mL | C(Cl)Cl | CH2Cl2
product | N-Boc-phenylalanyl-Nδ-Boc-ornithine Quinoline-3-amide | 51 mg | N1=CC(=CC2=CC=CC=C12)C(=O)N.C(=O)(OC(C)(C)C)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CCCNC(=O)OC(C)(C)C)C(=O)O | InChI=1S/C24H37N3O7.C10H8N2O/c1-23(2,3)33-21(31)25-14-10-13-17(20(29)30)26-19(28)18(15-16-11-8-7-9-12-16)27-22(32)34-24(4,5)6;11-10(13)8-5-7-3-1-2-4-9(7)12-6-8/h7-9,11-12,17-18H,10,13-15H2,1-6H3,(H,25,31)(H,26,28)(H,27,32)(H,29,30);1-6H,(H2,11,13)/t17-,18-;/m0./s1
